US08466199B2
The reaction of methyl 2-hydroxy-3-methoxy-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-3-methoxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.18 (s, —CO2H); 7.10 (m, 3 arom. H); 5.97 (m, —CH═CH2); 5.28, 5.14 (2 d-like, CH═CH2); 4.43 (d-like, CH2—CH═CH2); 3.77 (s, OCH3). 13C-NMR (100 MHz, d6-DMSO): 167.42 (C═O); 153.06; 146.24; 134.49; 127.66; 123.94; 121.07; 117.10; 115.57; 73.88; 55.93.

reactant | methyl 2-hydroxy-3-methoxy-benzoate | OC1=C(C(=O)OC)C=CC=C1OC | C9H10O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-3-methoxy-benzoic acid | C(C=C)OC1=C(C(=O)O)C=CC=C1OC | C11H12O4
